US07737166B2
6-(3-Aminophenyl)-2-cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-1,3-benzoxazole-4-carbonitrile (#84)
6-(3-Aminophenyl)-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-178) (200 mg, 0.65 mmol) was dissolved in dimethyl sulfoxide (4 ml), then at room temperature, triethylamine (136 μl, 0.98 mmol) and (3S)-3-(dimethylamino)pyrrolidine (124 μl, 0.98 mmol) were added. The solution was stirred under nitrogen atmosphere at 90° C. for 19 hours, then cooled to room temperature. This was fractionated with ethyl acetate and an aqueous saturated sodium hydrogencarbonate solution.

reactant | 6-(3-Aminophenyl)-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.65 mmol, 200 mg | NC=1C=C(C=CC1)C=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C18H14FN3O
reactant | triethylamine | 0.98 mmol, 136 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.98 mmol, 124 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(3-Aminophenyl)-2-cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-1,3-benzoxazole-4-carbonitrile | NC=1C=C(C=CC1)C=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)N1C[C@H](CC1)N(C)C | C24H27N5O
